US07906546B2
To a stirred solution of 44 mg (0.095 mmol) of (RS,SR)-C-{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-yl}-methylamine in 5 mL of THF, 19 μL (0.114 mmol, 1.2 eq) of Huenig's base and 11 μL (0.095 mmol, 1 eq) of benzoyl chloride were added at 0° C. After 2 hours, the reaction mixture was quenched by addition of an aqueous solution of NaHCO3 and extracted with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel EtOAc/Heptane 1:1 gave 28 mg (51%) of (RS,SR)-N-{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-ylmethyl}-benzamide as a white solid, MS: 565 (M).

reactant | (RS,SR)-C-{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-yl}-methylamine | 0.095 mmol, 44 mg | C1(=CC=CC=C1)S(=O)(=O)C(C1=NC(=NO1)CN)(F)C1CC2=C(NC=3C=CC(=CC23)Cl)C1 | C21H18ClFN4O3S
reactant | Huenig's base | 0.114 mmol, 19 μL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | benzoyl chloride | 0.095 mmol, 11 μL, 1 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (RS,SR)-N-{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-ylmethyl}-benzamide | 28 mg, 51% | C1(=CC=CC=C1)S(=O)(=O)C(C1=NC(=NO1)CNC(C1=CC=CC=C1)=O)(F)C1CC2=C(NC=3C=CC(=CC23)Cl)C1 | C28H22ClFN4O4S
